US05690856
55% Dibenzoyl Peroxide (BPO) Paste
In this Example, the mixer was charged with BPO (BPO 75% in water), benzoate, water, and zinc stearate. A preproduct was formed after about 30 minutes of mixing. Nonionic surfactant (Tergitol XD) was then added to emulsify the oil into the water phase. After about 30 minutes, a smooth, short, uniform paste of the following composition was produced.

reactant | benzoate | C(C1=CC=CC=C1)(=O)[O-]
reactant | Tergitol | CCCCC(CC)CCC(CC(C)C)OS(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
catalyst | zinc stearate | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Zn+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
product | Dibenzoyl Peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
